US07816371B2
c. (S)-2-(5-(2-(3,4-Dichlorophenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propanamide
To a stirred solution of 3,4-dichlorophenyl acetic acid (0.12 g, 0.00056 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.3 g, 0.0009 mol) and N,N-diisopropylethylamine (0.2 mL, 0.0009 mol) in N,N-dimethylformamide (5 mL, 0.06 mol) was added (S)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide (0.10 g, 0.00043 mol). The reaction was stirred for 16 h at room temperature. The reaction was quenched with water, extracted with dichloromethane, washed with 2N HCl, saturated sodium bicarbonate solution, brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (12 g, 0-10% MeOH/DCM) to yield the product as a white solid.

reactant | 3,4-dichlorophenyl acetic acid | 0.00056 mol, 0.12 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0009 mol, 0.3 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.0009 mol, 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
reactant | (S)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.00043 mol, 0.10 g | NC1=C2C=CN(C(C2=CC=C1)=O)[C@H](C(=O)N)C | C12H13N3O2
product | (S)-2-(5-(2-(3,4-Dichlorophenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propanamide | ClC=1C=C(C=CC1Cl)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@H](C(=O)N)C | C20H17Cl2N3O3
